US07247734B2
This compounds was synthesised in the same manner as described above. Resorcinol (0.66 g, 6 mmol), 3,4-dimethoxy-phenylacetic acid (1.18 g, 6 mmol), BF3Et2O (4 ml), PCl5 (1.9 g, 9.1 mmol), DMF (5 ml and 10 ml). The precipitate formed was filtered and re-crystallized from methanol to give 3-(3,4-Dimethoxy-phenyl)-7-hydroxy-chromen-4-one as a pale orange solid (1.43 g, 80%); Rf 0.9 ethyl acetate/hexane (75/25).

reactant | Resorcinol | 6 mmol, 0.66 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 3,4-dimethoxy-phenylacetic acid | 6 mmol, 1.18 g | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | PCl5 | 9.1 mmol, 1.9 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(3,4-Dimethoxy-phenyl)-7-hydroxy-chromen-4-one | 1.43 g, 80% | COC=1C=C(C=CC1OC)C1=COC2=CC(=CC=C2C1=O)O | C17H14O5
